US07727986B2
5-chloro-2-(2,5-dimethyl-4-nitrophenoxy)-N-ethyl-N-methylpyrimidin-4-amine-Process (a)-Compound (II) to Compound (IV)
A solution of 16.8 g (40 mmol) 2,5-dichloro-N-ethyl-N-methylpyrimidin-4-amine, 7.35 g 4-nitro-2,5-dimethylphenol (44 mmol) and 8.29 g potassium carbonate (60 mmol) in 70 ml DMF were stirred for 20 hrs at 100° C. After adding the mixture to 150 ml water the resulting suspension was extracted twice with 50 ml dichloromethane. The combined organic layers were washed with aqueous solution of sodium hydroxide. The organic layer was dried over magnesium sulfate, concentrated in vacuo and column chromatography (dichloromethane) yielded 8.3 g (47%) with a purity of 76%; log P (pH=2.3)=4.07.

reactant | 2,5-dichloro-N-ethyl-N-methylpyrimidin-4-amine | 40 mmol, 16.8 g | ClC1=NC=C(C(=N1)N(C)CC)Cl | C7H9Cl2N3
reactant | 4-nitro-2,5-dimethylphenol | 44 mmol, 7.35 g | [N+](=O)([O-])C1=CC(=C(C=C1C)O)C | C8H9NO3
reactant | potassium carbonate | 60 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-(2,5-dimethyl-4-nitrophenoxy)-N-ethyl-N-methylpyrimidin-4-amine | ClC=1C(=NC(=NC1)OC1=C(C=C(C(=C1)C)[N+](=O)[O-])C)N(C)CC | C15H17ClN4O3
